US05891902
N-Diphenylmethyl-N-isopropyl-1-benzenesulfonylindole-2-sulfonamide
To a solution of N-isopropyl-1-benzenesulfonylindole-2-sulfonamide (10.0 g, 26.42 mmol), triphenylphosphine (10.4 g, 39.63 mmol), and benzhydrol (7.30 g, 39.63 mmol) in 100 ml of tetrahydrofuran was dropwise added a solution of diethyl azodicarboxylate (6.24 ml, 39.63 mmol) in 100 ml of tetrahydrofuran with stirring, followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture followed by extraction with ethyl acetate. The resulting organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to give 34.5 g of a crude product. The obtained crude product was purified with silica gel column chromatography (ethyl acetate/hexane=1/9) followed by crystallization from ethanol to give 11.4 g (yield: 79%) of the title compound.

reactant | N-isopropyl-1-benzenesulfonylindole-2-sulfonamide | 26.42 mmol, 10.0 g | C(C)(C)NS(=O)(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C17H18N2O4S2
reactant | triphenylphosphine | 39.63 mmol, 10.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzhydrol | 39.63 mmol, 7.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | diethyl azodicarboxylate | 39.63 mmol, 6.24 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-Diphenylmethyl-N-isopropyl-1-benzenesulfonylindole-2-sulfonamide | 11.4 g, yield: 79% | C1(=CC=CC=C1)C(N(S(=O)(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1)C(C)C)C1=CC=CC=C1 | C30H28N2O4S2
